US09403798B2
7-Benzyl-9-(4-fluorophenyl)-3-oxa-7-azabicyclo[3.3.1]nonan-9-ol
To 4-fluorobenzene magnesium bromide (2M diethyl ether solution) (5.0 mL, 10.0 mmol), (1R,5S)-7-benzyl-3-oxa-7-azabicyclo[3.3.1]nonan-9-one (462 mg, 2.00 mmol) was added dropwise at 0° C. and the resultant mixture was stirred at room temperature for 1 minute. After completion of the reaction, water and 1 M sodium hydroxide aqueous solution were added to the reaction solution and extraction from the resultant reaction mixture with ethyl acetate was performed. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel (amino-based) column chromatography (hexane/ethyl acetate=5/1) to obtain the title compound (156 mg, yield 24%).

reactant | 4-fluorobenzene magnesium bromide | 10.0 mmol, 2M, 5.0 mL | [Br-].[Mg+2].FC1=CC=CC=C1.[Br-]
reactant | (1R,5S)-7-benzyl-3-oxa-7-azabicyclo[3.3.1]nonan-9-one | 2.00 mmol, 462 mg | C(C1=CC=CC=C1)N1C[C@H]2COC[C@@H](C1)C2=O | C14H17NO2
reactant | water | O | H2O
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Benzyl-9-(4-fluorophenyl)-3-oxa-7-azabicyclo[3.3.1]nonan-9-ol | 156 mg, yield 24% | C(C1=CC=CC=C1)N1CC2COCC(C1)C2(O)C2=CC=C(C=C2)F | C20H22FNO2
